US04039544
Chlorosulphonic acid (200 ml.), cooled to 10° C., was treated with 2-propoxybenzamide (60 g.) in aliquots with stirring during 45 minutes. When complete solution had occurred, the solution was allowed to stand at room temperature for 24 hours. The resulting yellow-brown solution was then added dropwise, with stirring, to ice (1.5 kg.), keeping the temperature at or below 0° C. The precipitated solid was filtered off, washed with ice-cold water, and sucked dry. The solid was then dissolved in dichloromethane (approximately 2 liters), any water still present was separated off, and the organic layer was dried over calcium chloride and then over magnesium sulphate. Most of the dichloromethane was removed in vacuo, the low volume residue was treated with petroleum ether (b.p. 40° - 60° C.) and the precipitated solid was filtered off, to give crude 5-chlorosulphonyl-2-propoxybenzamide (81 g.), m.p. 122° - 129° C.

reactant | 2-propoxybenzamide | 60 g | C(CC)OC1=C(C(=O)N)C=CC=C1 | C10H13NO2
reactant | Chlorosulphonic acid | 200 ml | ClS(=O)(=O)O | ClHO3S
product | 5-chlorosulphonyl-2-propoxybenzamide | 81 g | ClS(=O)(=O)C=1C=CC(=C(C(=O)N)C1)OCCC | C10H12ClNO4S
